US07981918B2
4,5,6,7-Tetrahydro-1H-indazol-6-ylamine
Combine 1H-indazol-6-ylamine (12.45 g, 93.6 mmol) and 5% Rh/C (6.13 g) in ethanol (300 mL) and heat at 120° C. for 72 hours under ˜1000 psi H2. Cool the reaction and filter through hyflo. Remove the solvent in vacuo and purify the crude product with 10% 2 M NH3 in MeOH in CH2Cl2 and re-purify mixed fractions with 15% 2 M NH3 in MeOH in CH2Cl2 to afford 4.80 g (37%) of the titled product. MS (m/z): 138 (M+1).

reactant | 1H-indazol-6-ylamine | 93.6 mmol, 12.45 g | N1N=CC2=CC=C(C=C12)N | C7H7N3
solvent | ethanol | 300 mL | C(C)O | C2H6O
catalyst | Rh/C | 6.13 g | [Rh] | Rh
product | 4,5,6,7-Tetrahydro-1H-indazol-6-ylamine | 4.80 g, 37% | N1N=CC=2CCC(CC12)N | C7H11N3
